US06162930
To a well stirred solution of 2-(4'-methoxyphenyl)-4-methoxybenzo[b]thiophene (0.201 g, 0.74 mmol) and 3,4,5-trifluorobenzoyl chloride (0.288 g, 1.48 mmol) in CH2Cl2 (7 mL) was added AlCl3 (0.304 g, 2.22 mmol) portion-wise over a 15 minute period. After 18 h, water was added, and the product was isolated initially with CH2Cl2 and subsequently by extraction with EtOAc. The organic layers were separately washed sequentially with NaHCO3 and brine and then dried over MgSO4. Purification by flash chromatography (silica gel, 80:20 hexane/EtOAc) afforded benzo[b]thiophene (0.032 g, 0.08 mmol, 10%) as a white solid. Recrystallization (Ethanol/hexane/CH2Cl2) yielded a highly pure crystalline sample. 1H-NMR(CDCl3, 360 MHz) δ7.74 (d, J=8.9 Hz, 2H, ArH), 7.70 (d, J=9.3 Hz, 1H, ArH), 7.68 (s, 1H, ArH), 7.43 (dd, J=7.5, 6.6 Hz, 2H, ArH), 7.00 (d, J=8.9 Hz, 2H, ArH), 6.83 (d, J=8.4 Hz, 1H, ArH), 4.09 (s, 3H, --OCH3), 3.87 (S, 3H, --OCH3). 13C-NMR (CDCl3, 90 MHz) 190.5, 160.1, 159.1, 152.3, 150.0, 146.6, 141.3, 134.4, 132.9, 132.1, 127.9, 126.9, 122.4, 114.5, 114.1, 114.1, 114.0, 113.9, 113.8, 56.0, 55.4. HRMS (EI) M+ calcd for C23H15F3O3S 428.0694 found 428.0620. Compound 12A shows an inhibition of tubulin polymerization >40 μM. Biological activity of compound 12A is shown in Table 18.

reactant | 2-(4'-methoxyphenyl)-4-methoxybenzo[b]thiophene | 0.74 mmol, 0.201 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2OC | C16H14O2S
reactant | 3,4,5-trifluorobenzoyl chloride | 1.48 mmol, 0.288 g | FC=1C=C(C(=O)Cl)C=C(C1F)F | C7H2ClF3O
reactant | AlCl3 | 2.22 mmol, 0.304 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | benzo[b]thiophene | 0.08 mmol, 0.032 g, 10% | S1C2=C(C=C1)C=CC=C2 | C8H6S
